US05698554
By treating [3-(phthalimido)propoxy]benzene and 2-chloropropionyl chloride in the same manner as in Example 79-(1), 4-[3-(phthalimido)propoxy]-1-(2-chloropropionyl)benzene was obtained.

reactant | [3-(phthalimido)propoxy]benzene | C1(C=2C(C(N1CCCOC1=CC=CC=C1)=O)=CC=CC2)=O | C17H15NO3
reactant | 2-chloropropionyl chloride | ClC(C(=O)Cl)C | C3H4Cl2O
product | 4-[3-(phthalimido)propoxy]-1-(2-chloropropionyl)benzene | C1(C=2C(C(N1CCCOC1=CC=C(C=C1)C(C(C)Cl)=O)=O)=CC=CC2)=O | C20H18ClNO4
